US07834009B2
A solution of (1-amino-cyclopentyl)-acetic acid methyl ester (318 mg, 2.02 mmol) in anhydrous methanol (10 mL) was treated with 4-fluoro-benzaldehyde (0.27 mL, 2.56 mmol) and stirred at 25° C. under a nitrogen environment. After 10 min, glacial acetic acid (0.384 mL, 6.71 mmol) and sodium triacetoxyborohydride (1.1 g, 5.05 mmol) were added sequentially, and the resulting mixture was stirred at 25° C. for 18 h. The reaction was diluted with a saturated aqueous sodium bicarbonate solution (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to give [1-(4-fluoro-benzylamino)-cyclopentyl]-acetic acid methyl ester (270 mg, 50%) as a colorless oil. LC-MS (ESI) calculated for C15H20FNO2: 265.3, found 266.2 [M+H+].

reactant | (1-amino-cyclopentyl)-acetic acid methyl ester | 2.02 mmol, 318 mg | COC(CC1(CCCC1)N)=O | C8H15NO2
reactant | 4-fluoro-benzaldehyde | 2.56 mmol, 0.27 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | acetic acid | 6.71 mmol, 0.384 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 5.05 mmol, 1.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
product | [1-(4-fluoro-benzylamino)-cyclopentyl]-acetic acid methyl ester | 270 mg, 50% | COC(CC1(CCCC1)NCC1=CC=C(C=C1)F)=O | C15H20FNO2
